US05104867
13-(1) (2S, 4S)-2-Ethylcarbamoyl-4-(4-methoxybenzyl-thio)-1-methylpyrrolidine
3.43 ml of 35% formalin and 804 mg of sodium cyanoborohydride were added to a solution of 2.36 g of (2S, 4S)-2-ethylcarbamoyl-4-(4-methoxybenzylthio)-pyrrolidine dissolved in 42 ml of acetonitrile, and the mixture was stirred at room temperature for 40 minutes. At the end of this time, a 1N aqueous solution of sodium hydroxide was added, and the reaction mixture was poured into an aqueous solution of sodium chloride and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel (eluted with ethyl acetate) to afford 1.93 g of the title compound as colorless crystals. Infrared Absorption Spectrum (KBr) δmax cm-1 : 1655, 1513, 1252.

reactant | formalin | 3.43 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 804 mg | C(#N)[BH3-].[Na+]
reactant | (2S, 4S)-2-ethylcarbamoyl-4-(4-methoxybenzylthio)-pyrrolidine | 2.36 g | C(C)NC(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C15H22N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetonitrile | 42 ml | C(C)#N | C2H3N
product | (2S, 4S)-2-Ethylcarbamoyl-4-(4-methoxybenzyl-thio)-1-methylpyrrolidine | 1.93 g | C(C)NC(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C | C16H24N2O2S
